US04476308
Preparation of (R/S)-N-[2-(1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide
3.0 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate and 2.87 g of N-(2-aminoethyl)piperidine are heated to 100° for 4 hours under nitrogen. The excess N-(2-aminoethyl)piperidine is distilled in a high vacuum. The (R/S)-N-[2-(1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide remaining as the residue has a melting point of 110°-111° after crystallization from ethyl acetate.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 3.0 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | N-(2-aminoethyl)piperidine | 2.87 g | NCCN1CCCCC1 | C7H16N2
product | (R/S)-N-[2-(1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | N1(CCCCC1)CCNC(CN1C(C(CC1)O)=O)=O | C13H23N3O3
